US07087601B2
A solution of 5-(1,3-benzoxazol-2-yl)-2-methylphenol (0.8 g, 3.5 mmol) and triethylamine (0.6 mL, 4.3 mmol) in CH2Cl2 (20 mL) was cooled to 0° C. and TBDMS-OTf (900 mL, 3.9 mmol) was added. The reaction was slowly warmed to rt and EtOAc (200 mL) was added. The mixture was washed with H2O (3×50 mL), dried (MgSO4), filtered, and concentrated in vacuo to afford 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-methylphenyl)-1,3-benzoxazole as light yellow oil.

reactant | 5-(1,3-benzoxazol-2-yl)-2-methylphenol | 3.5 mmol, 0.8 g | O1C(=NC2=C1C=CC=C2)C=2C=CC(=C(C2)O)C | C14H11NO2
reactant | triethylamine | 4.3 mmol, 0.6 mL | C(C)N(CC)CC | C6H15N
reactant | TBDMS-OTf | 3.9 mmol, 900 mL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 2-(3-{[tert-butyl-(dimethyl)silyl]oxy}-4-methylphenyl)-1,3-benzoxazole | C(C)(C)(C)[Si](OC=1C=C(C=CC1C)C=1OC2=C(N1)C=CC=C2)(C)C | C20H25NO2Si
